US06929685B2
Di-tert-butyldicarbonate (2.8 g) was added at room temperature to a solution of commercially available 1-aminoundec-10-ene (2 g) in dry THF (40 mL). The solution was stirred at room temperature for 15 h. Then the solvent was evaporated and the solid residue submitted to bulb-to-bulb distillation to furnish N-tert-butoxycarbonyl-1-aminoundec-10-ene (2.96 g, yield: 93%). To the latter (500 mg) was added 278 mL of borane-dimethylsulfide complex (10 M) in THF at 15° C. under an atmosphere of dry nitrogen. The reaction mixture was allowed to reach +10° C. After 2 h. the excess of borane complex was destroyed by addition of a few drops of water, 1 mL of NaOH (20%) and 1 mL of H2O2 (33%). After one hour at room temperature, the resulting reaction mixture was poured onto 30 mL of water and extracted with 2×30 mL of CH2Cl2. The organic phases were combined and evaporated to dryness. The solid residue was flash chromatographed on a Silica gel column. This furnished N-tert-butoxycarbonyl-1-aminoundecan-11-ol (325 mg, yield: 66%). Triphenylphosphine (273 mg) and carbon tetrabromide (667 mg) were successively added to a stirred solution of N-tert-butoxycarbonyl-1-aminoundecan-11-ol (300 mg) in CH2Cl2 (5 mL). After 3 h at room temperature, the solvent was evaporated and the residue chromatographed on a Silica gel column (eluent: CH2Cl2) leading to N-tert-butoxycarbonyl-11-bromoundecyl-1-amine (300 mg, yield: 82%). Then, trifluoroacetic acid (1 mL)

reactant | Di-tert-butyldicarbonate | 2.8 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | 1-aminoundec-10-ene | 2 g | NCCCCCCCCCC=C | C11H23N
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | N-tert-butoxycarbonyl-1-aminoundec-10-ene | 2.96 g, yield: 93% | C(C)(C)(C)OC(=O)NCCCCCCCCCC=C | C16H31NO2
